US09387202B2
A methanolic solution of methylamine (10 mL) was added to 1-(4-fluoro-phenyl)-4-iodo-2-oxo-1,2-dihydro-pyridine-3-carboxylic acid [4-(2-acetylamino-pyridin-4-yloxy)-2,5-difluoro-phenyl]-amide (90 mg, 0.145 mmol) and the resultant mixture was stirred at 80° C. for 3 h. The mixture was concentrated to dryness and the crude product was recrystallized from MeOH to afford N-(4-((2-acetamidopyridin-4-yl)oxy)-2,5-difluorophenyl)-1-(4-fluorophenyl)-4-(methylamino)-2-oxo-1,2-dihydropyridine-3-carboxamide (65 mg, 85.5% yield). 1H NMR (400 MHz, DMSO-d6): δ 13.21 (s, 1 H), 10.57 (s, 1 H), 10.34 (m, 1 H), 8.47 (dd, J=13.0, 7.2 Hz, 1 H), 8.17 (d, J=5.8 Hz, 1 H), 7.72 (d, J=7.8 Hz, 1 H), 7.65 (s, 1 H), 7.55-7.42 (m, 3 H), 7.33 (m, 2 H), 6.69 (d, J=5.9 Hz, 1 H), 6.24 (d, J=7.9 Hz, 1 H), 3.01 (d, J=5.0 Hz, 3 H), 2.02 (s, 3 H); MS (ESI) m/z: 524.01 (M+H+).

reactant | 1-(4-fluoro-phenyl)-4-iodo-2-oxo-1,2-dihydro-pyridine-3-carboxylic acid [4-(2-acetylamino-pyridin-4-yloxy)-2,5-difluoro-phenyl]-amide | 0.145 mmol, 90 mg | C(C)(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(=O)C=1C(N(C=CC1I)C1=CC=C(C=C1)F)=O)F | C25H16F3IN4O4
reactant | methylamine | 10 mL | CN | CH5N
product | N-(4-((2-acetamidopyridin-4-yl)oxy)-2,5-difluorophenyl)-1-(4-fluorophenyl)-4-(methylamino)-2-oxo-1,2-dihydropyridine-3-carboxamide | 65 mg, 85.5% yield | C(C)(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(=O)C=1C(N(C=CC1NC)C1=CC=C(C=C1)F)=O)F | C26H20F3N5O4
